Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for pyelonephritis vs renal infarct
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo man with no significant PMH who presents 
to ___ as a transfer from ___ for possible renal 
infarct vs pyelonephritis.

On the evening of ___, he developed nausea, diarrhea, sweats, 
and LUQ pain after eating pizza. Pepto-Bismol and gingerale did 
not provide relief. He presented to ___, where his CT 
abdomen and pelvis showed renal infarct versus focal 
pyelonephritis. UA was negative. He received Toradol, 
ondansetron, and 1L IVF with resolution of pain. He was 
transferred to ___ for further management.

-In the ED, initial vitals were:  T 98.7 HR 95 BP134/71 RR14 
100% RA 
-Exam notable for LUQ abd pain, No CVA tenderness. He was able 
to eat breakfast. 
-Labs showed WBC 10.4, Hgb 14.9, Plt 232; Cr 0.8; UA few 
bacteria, 0 WBC, neg nitrites, neg leukocytes, 40 ketones, 30 
protein, sp gravity >1.050 
-Second opinion CT torso: 
1. Striated hypoenhancement of the left renal interpolar region 
and lower pole. The differential includes focal pyelonephritis, 
renal infarct or much less likely malignancy such as lymphoma. 
For the kidney recommend correlation with urinalysis and 
followup in 3 months to evaluate for resolution.
2. 9 mm lucency in the right iliac crest without aggressive 
features. This can be followed up in 3 months at time of renal 
___.
3. 4 mm right middle lobe nodule. The ___ 
recommends ___ chest CT in ___ year in a high risk patient 
and no additional ___ in a low risk patient.
-Received no medications or fluids in the ED. 
-Decision was made to admit to medicine for further management. 
-Transfer VS were T98.6  HR70 BP117/81 RR17 99% RA   

On arrival to the floor, patient reports no symptoms. He does 
not have abdominal pain or dysuria. He is feeling well. He 
reports that he felt well enough on transfer that he did not 
feel he had to come to ___.  

 
Past Medical History:
Bilateral hip replacements from OA (age ___
 
Social History:
___
Family History:
No history of blood clots. Mother had pancreatic cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================

Vital Signs: 98.0 116 / 77 82 18 100 ra  
General: Alert, oriented, no acute distress  
HEENT: Normalocephalic/atraumatic, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. No CVA tenderness.  
GU: No foley  
Ext: Warm, well perfused.
Neuro: Alert, conversing well, moving all extremities, gait 
normal. 

DISCHARGE PHYSICAL EXAM:
========================

Vital Signs: 98.1  109/72 (110's-130's/70-80's) 74 18 99 ra  
General: Alert, oriented, no acute distress  
HEENT: Normalocephalic/atraumatic, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding. No CVA tenderness.  
GU: No foley  
Ext: Warm, well perfused.
Neuro: Alert, conversing well, moving all extremities, gait 
normal. 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 06:45AM BLOOD WBC-10.4* RBC-5.39 Hgb-14.9 Hct-45.2 
MCV-84 MCH-27.6 MCHC-33.0 RDW-13.4 RDWSD-40.7 Plt ___
___ 06:45AM BLOOD Neuts-73.7* Lymphs-15.8* Monos-9.4 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-7.67* AbsLymp-1.64 
AbsMono-0.98* AbsEos-0.05 AbsBaso-0.02
___ 06:45AM BLOOD ___ PTT-27.3 ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-116* UreaN-15 Creat-0.8 Na-137 
K-3.8 Cl-100 HCO3-27 AnGap-14
___ 06:45AM BLOOD ALT-33 AST-29 LD(LDH)-281* AlkPhos-41 
TotBili-0.4
___ 06:45AM BLOOD Lipase-33

RELEVANT LABS: 
===============
___ 06:45AM BLOOD Lipase-33
___ 06:45AM BLOOD ALT-33 AST-29 LD(___)-281* AlkPhos-41 
TotBili-0.4
___ 06:17AM BLOOD LD(___)-194

PERTINENT STUDIES/IMAGING: 
===========================

___ TTE

The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. No mitral regurgitation is seen. There is 
no pericardial effusion. 

 IMPRESSION: No source of cardiac embolism identified. Preserved 
biventricular regional and global systolic function. No 
significant valvular disease.  

___ SECOND OPINION CT TORSO

RECOMMENDATION(S): 
  
1. For the kidney recommend correlation with urinalysis and 
followup in 3 
months to evaluate for resolution. 
2. For the pulmonary nodule, per the ___ 
guidelines if there are no risk factors for malignancy no 
followup is required.  If risk factors recommend followup in ___ 
year with chest CT. 

MICRO: 
======

NONE

DISCHARGE LABS: 
===============

___ 06:17AM BLOOD WBC-9.3 RBC-5.32 Hgb-14.6 Hct-45.1 MCV-85 
MCH-27.4 MCHC-32.4 RDW-13.7 RDWSD-41.9 Plt ___
___ 06:17AM BLOOD Neuts-59.5 ___ Monos-12.0 Eos-2.1 
Baso-0.3 Im ___ AbsNeut-5.53 AbsLymp-2.41 AbsMono-1.12* 
AbsEos-0.20 AbsBaso-0.03
___ 06:17AM BLOOD Plt ___
___ 06:17AM BLOOD ___ PTT-27.4 ___
___ 06:17AM BLOOD Glucose-96 UreaN-16 Creat-0.9 Na-145 
K-4.0 Cl-107 HCO3-29 AnGap-13
___ 06:17AM BLOOD LD(LDH)-194
___ 06:17AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with no significant PMH who presents 
to ___ as a transfer from ___ for possible renal 
infarct vs pyelonephritis.

#Renal infarct vs pyelonephritis: Given negative UA, less likely 
to be pyelonephritis and more likely to be renal infarct, 
although imaging study has difficulty distinguishing between the 
two etiologies. Of note, other differential diagnosis includes 
lymphoma, although this is considered less likely. For the 
differential of renal infarcts, possible causes include A-fib, 
endocarditis, hypercoagulability (antiphospholipid syndrome, 
factor V Leiden, protein C/S deficiency, antithrombin 
deficiency), trauma to the renal artery (dissection, segmental 
arterial mediolysis), connective tissue disorders (Marfans, 
Eh___-Danlos). His elevated LDH is also consistent with a renal 
infarct.

An initial 12-lead EKG did not show A-fib. He was monitored on 
telemetry with HR's in the 50-60___s. A TTE was ordered that 
showed no evidence of thrombus. He had no additional pain during 
his hospital stay. Plan for PCP and urology ___ and 
consideration for hypercoagulable work-up.

#OA s/p bilateral hip replacements: unclear etiology as no 
history of chronic illness or causative medications. Not 
currently complaining of hip pain. It is also unclear whether 
there may be an underlying causative factor that could be 
connected with his renal infarct.

Transitional issues:
-Establish care with a primary care physician.
-Schedule urology f/u: further evaluation of renal infarct and 
possible hypercoagulable work-up.
-Radiology f/u:
1. For the kidney recommend followup in 3 months to evaluate for 
resolution. 
2. For the pulmonary nodule, per the ___ 
guidelines if there are no risk factors for malignancy no 
followup is required. If risk factors recommend followup in ___ 
year with chest CT. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Simethicone 40-80 mg PO QID:PRN bloating 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Renal infarct
#OA s/p bilateral hip replacements
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
with abdominal pain and were found to have an abnormality on 
your kidney that was most consistent with an infarct (area of 
damaged tissue). To determine the cause of this, we monitored 
your heart rhythm and also obtained a picture of your heart 
(called an echocardiogram). Both of these studies were normal 
and we felt was safe for you to return home. 

It will be important for you to establish care with a primary 
care physician and also follow up with urology for further 
work-up. You will need additional imaging as detailed below to 
monitor some changes that were seen on your CT scan.

Take care, and we wish you the best.

Sincerely,
Your ___ medicine team
 
Followup Instructions:
___